US05830892
Bis(triphenylphosphine)palladium dichloride (5.0 mg) was added to a degassed solution of [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-bromo-5-(trifluoromethyl)phenylmethoxy]piperidine (330 mg), and 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole (713 mg) in dry toluene (15.0 ml) under a dry nitrogen atmosphere. The resulting solution was warmed to reflux for 4 hours. After this time the reaction was cooled to room temperature and the solvent removed under reduced pressure. The residue was partitioned between aqueous NaHCO3 solution (10 ml, satd.) and ethyl acetate. The organic layer was washed with brine (10 ml), dried over MgSO4, filtered and the solvent removed under pressure. Purification by MPLC (1:1 ethyl acetate/n-hexane) afforded [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol-5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine as a yellow foam (330 mg). 1H NMR (360 MHz,CDCl3) δ 1.45 (9H, s), 1.74 (2H, m), 2.00 (2H, m), 2.75 (1H, t d, J=7.2, 3.0 Hz), 3.91 (2H,m), 4.03 (3H, s), 4.74 (2H, s), 5.71 (1H, br s), 7.27-7.33 (3H, m), 7.44-7.62 (5H, m), 7.75 (1H, s).

reactant | [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-bromo-5-(trifluoromethyl)phenylmethoxy]piperidine | 330 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)Br)C1=CC=CC=C1 | C24H27BrF3NO3
reactant | 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole | 713 mg | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 15.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Bis(triphenylphosphine)palladium dichloride | 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[3-(1-methyl-1H-[1,2,3]triazol-5-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 330 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C1=CN=NN1C)C1=CC=CC=C1 | C27H31F3N4O3
